US04094994
(b) 1-chlor-1-(3'-methoxyphenyl)-2-methyl-propane
The preparation was effected in analogy to example 1(b) from 1-(3'-methoxyphenyl)-2-methyl-propan-1-ol and HCl-gas.

reactant | 1-(3'-methoxyphenyl)-2-methyl-propan-1-ol | COC=1C=C(C=CC1)C(C(C)C)O | C11H16O2
reactant | HCl | Cl | ClH
product | 1-chlor-1-(3'-methoxyphenyl)-2-methyl-propane | ClC(C(C)C)C1=CC(=CC=C1)OC | C11H15ClO
